US08710077B2
b) 4-Allyl-4-amino-cyclohexanol (16)
The crude 1-allyl-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylamine (16, step a) was dissolved in 100 mL of diethyl ether. Then, 100 mL of 1N aqueous HCl were added dropwise and the resultant biphasic mixture was stirred for 30 min. The layers were separated, the aqueous layer was washed with diethyl ether and the pH adjusted to pH8 by the addition of solid sodium hydroxide. The suspension was then extracted with a 3:1 mixture of dichloromethane and 2-propanol and the combined organic extracts were concentrated in vacuo to afford 0.54 g of the title compound as mixture of diastereomers (1.5:1). Rt=0.15 min, 0.27 min (Method C). Detected mass: 156.2 (M+H+).

reactant | 1-allyl-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylamine | C(C=C)C1(CCC(CC1)O[Si](C)(C)C(C)(C)C)N | C15H31NOSi
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4-Allyl-4-amino-cyclohexanol | 0.54 g | C(C=C)C1(CCC(CC1)O)N | C9H17NO
